US07691842B2
Step 3: Preparation of 4-nitrobenzyl (5R)-6-[(acetyloxy)(5-methyl-6,7,8,9-tetrahydro[1,2,4]triazolo[1,5-a]quinazolin-2-yl)methyl]-6-bromo-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate
5-Methyl-6,7,8,9-tetrahydro-[1,2,4]triazolo[1,5-a]quinazoline-2-carbaldehyde (432 mg, 2 mmol) and the dry THF solution (20 mL) of (5R,6S)-6-bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester (770 mg, 2 mmol) were added successively to the dry acetonitrile (15 mL) solution of anhydrous MgBr2:O(Et)2 (1.2 g, 3.0 mmol) under an argon atmosphere at room temperature. After cooling to −20° C., Et3N (2.0 mL) was added in one portion. The reaction vessel was covered with foil to exclude light. The reaction mixture was stirred for 2 h at −20° C. and treated with acetic anhydride (1.04 mL) in one portion. The reaction mixture was warmed to 0° C. and stirred for 15 h at 0° C. The mixture was diluted with ethyl acetate and washed with 5% citric acid aqueous solution, saturated sodium hydrogen carbonate, and brine. The organic layer was dried (MgSO4) and filtered through a pad of Celite. The pad was washed with ethyl acetate. The filtrate was concentrated under reduced pressure. The residue was applied to silica gel column chromatography, then the column was eluted with ethyl acetate:hexane (1:1). Collected fractions were concentrated under reduced pressure and the mixture of diastereomers were taken to the next step. Pale yellow amorphous solid; Yield: 600 mg, 47%; (M+H) 644.7.

reactant | 5-Methyl-6,7,8,9-tetrahydro-[1,2,4]triazolo[1,5-a]quinazoline-2-carbaldehyde | 2 mmol, 432 mg | CC1=NC=2N(C=3CCCCC13)N=C(N2)C=O | C11H12N4O
reactant | (5R,6S)-6-bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester | 2 mmol, 770 mg | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N3C([C@@H]([C@H]3SC2)Br)=O)C=C1 | C13H9BrN2O5S
reactant | MgBr2 | [Mg+2].[Br-].[Br-]
reactant | O(Et)2 | 3.0 mmol, 1.2 g | O(CC)CC | C4H10O
reactant | acetic anhydride | 1.04 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Et3N | 2.0 mL | CCN(CC)CC | C6H15N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-nitrobenzyl (5R)-6-[(acetyloxy)(5-methyl-6,7,8,9-tetrahydro[1,2,4]triazolo[1,5-a]quinazolin-2-yl)methyl]-6-bromo-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | C(C)(=O)OC(C1([C@H]2SC=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])Br)C1=NN2C(N=C(C=3CCCCC23)C)=N1 | C26H23BrN6O7S
